US06169102A
To a solution of 1-benzyloxycarbonyl-5-chloro-3-hydroxymethylindole (1.45 g) in dichloromethane (23 ml) was added thionylchloride (0.797 μl) at −78° C. After the mixture was stirred for 1.5 hours at room temperature, the reaction mixture was concentrated under the reduced pressure to give a residue. Hexane was added to the residue. 1-benzyloxycarbonyl-5-chloro-3-chloromethylindole (1.43 g) was obtained as a crystal.

reactant | 1-benzyloxycarbonyl-5-chloro-3-hydroxymethylindole | 1.45 g | C(C1=CC=CC=C1)OC(=O)N1C=C(C2=CC(=CC=C12)Cl)CO | C17H14ClNO3
reactant | thionylchloride | 0.797 μl | S(=O)(Cl)Cl | Cl2OS
reactant | Hexane | CCCCCC | C6H14
solvent | dichloromethane | 23 ml | ClCCl | CH2Cl2
product | 1-benzyloxycarbonyl-5-chloro-3-chloromethylindole | 1.43 g | C(C1=CC=CC=C1)OC(=O)N1C=C(C2=CC(=CC=C12)Cl)CCl | C17H13Cl2NO2
